US06376672B1
0.40 g (0.63 mmol) of (3S,4R,5R)-4-(4-allyloxy-phenyl)-3-[(S)-2,2-dimethyl-[1,3]dioxolan-4-ylmethoxy]-5-(4-methoxy-naphthalen-2-ylmethoxy)-piperidine-1-carboxylic acid tert-butyl ester, 1.4 mg (0.0063 mmol) of palladium-II-acetate and 3.3 mg (0.0126 mmol) of triphenylphosphin were dissolved in 2 ml of tetrahydrofuran. After cooling to 5° C., 21.7 mg (0.947 mmol) of lithiumborohydride were added and the reaction mixture stirred for 4 hours without cooling. Thereafter, the reaction mixture was again cooled to 5° C. and treated with 0.32 ml of acetone, then diluted with 5 ml of saturated sodium hydrogen carbonate solution and extracted twice with 5 ml of ether. The combined organic phases were washed once with a small amount of water, dried over magnesium sulphate, evaporated under reduced pressure and dried in a high vacuum. The thus-obtained crude product was separated on silica gel using a mixture of dichloromethane/ethyl acetate (4/1) as the eluent and yielded 0.343 g (0.578 mmol), 91.5%, (3S,4R,5R)-3-[(4S)-2,2-dimethyl-[1,3]dioxolan-4-ylmethoxy]-4-(4-hydroxy-phenyl)-5-(4-methoxy-naphthalen-2-ylmethoxy)-piperidine-1-carboxylic acid tert-butyl ester as colorless oil; MS: 594 (M+H)+.

reactant | (3S,4R,5R)-4-(4-allyloxy-phenyl)-3-[(S)-2,2-dimethyl-[1,3]dioxolan-4-ylmethoxy]-5-(4-methoxy-naphthalen-2-ylmethoxy)-piperidine-1-carboxylic acid tert-butyl ester | 0.63 mmol, 0.40 g | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H]([C@H](C1)OCC1=CC2=CC=CC=C2C(=C1)OC)C1=CC=C(C=C1)OCC=C)OC[C@@H]1OC(OC1)(C)C | C37H47NO8
reactant | triphenylphosphin | 0.0126 mmol, 3.3 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | lithiumborohydride | 0.947 mmol, 21.7 mg | [BH4-].[Li+]
reactant | acetone | 0.32 ml | CC(=O)C | C3H6O
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | sodium hydrogen carbonate | 5 ml | C(O)([O-])=O.[Na+]
catalyst | palladium-II-acetate | 0.0063 mmol, 1.4 mg | CC(=O)O.CC(=O)O.[Pd]
product | (3S,4R,5R)-3-[(4S)-2,2-dimethyl-[1,3]dioxolan-4-ylmethoxy]-4-(4-hydroxy-phenyl)-5-(4-methoxy-naphthalen-2-ylmethoxy)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H]([C@H](C1)OCC1=CC2=CC=CC=C2C(=C1)OC)C1=CC=C(C=C1)O)OC[C@@H]1OC(OC1)(C)C | C34H43NO8
